US08293768B2
To a solution of 4-fluorophenethylamine (2.00 mL, 15.0 mmol) and dimethoxyacetaldehyde (60% solution in water, 2.53 mL, 16.83 mmol) in tetrahydrofuran (100 mL) was added sodium triacetoxyborohydride (4.28 g, 20.20 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 16 hours. The reaction was quenched by the addition of saturated sodium bicarbonate (50 mL). The mixture was extracted with ethyl acetate (3×100 mL) and the combined organic solution was dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography eluted with ethyl acetate/hexane to afford N-(4-fluorophenethyl)-2,2-dimethoxyethanamine as a colorless oil in 52% yield (1.78 g): 1H NMR (300 MHz, CDCl3) δ 7.14-7.10 (m, 2H), 6.97-6.91 (m, 2H), 4.43-4.40 (m, 1H), 3.35 (s, 6H), 2.89-2.81 (m, 2H), 2.76-2.71 (m, 4H); MS (ES+) m/z 228.2 (M+1).

reactant | 4-fluorophenethylamine | 15.0 mmol, 2.00 mL | FC1=CC=C(CCN)C=C1 | C8H10FN
reactant | dimethoxyacetaldehyde | 16.83 mmol, 2.53 mL | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyborohydride | 20.20 mmol, 4.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(4-fluorophenethyl)-2,2-dimethoxyethanamine | 52% yield | FC1=CC=C(CCNCC(OC)OC)C=C1 | C12H18FNO2
